US07250410B2
3-[3-(aminomethyl)benzyl]-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIct.
Leave under hydrogen pressure (Patm) for 12 hours, 40 mg of 3-[(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile (IIcp), 0.4 ml of 30% ammonia, 4 ml of methanol, 1 spatula tip of Raney nickel. Filter on celite, rinse several times with methanol. Evaporate to dryness. Take up in 50 ml of dichloromethane, wash three times with 50 ml of 0.5 M NH3 and twice with water. Dry the organic phase on Na2SO4. Evaporate to dryness. Recrystallize in ether. Filter. One obtains 40 mg of the abovenamed product in the form of a white powder. Yield: 55%. M: 122–125° C. 1H-NMR (CDCl3, 200 MHz): d 1.10 (s, 3H, CH3), 1.30 (m, 2H exchangeable —NH2), 3.50–3.89 (m, 8H, 1H —CH2Ph+1H —NCH2+CH+CH2—NH2+OCH3), 3.98–4.11 (m, 4H, 1H —CH2Ph+OCH3), 4.37–4.47 (m, 1H —NCH2), 6.67 (s, 1H Ar), 6.84 (s,1H Ar), 7.20–7.64 (m, 9H Ar).

reactant | 3-[(1-ethyl-7,8-dimethoxy-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile | 40 mg | C(C)N1C(C(N=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)CC=2C=C(C#N)C=CC2)=O | C27H25N3O3
reactant | ammonia | 0.4 ml | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 4 ml | CO | CH4O
product | 3-[3-(aminomethyl)benzyl]-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 40 mg, Yield: 55% | NCC=1C=C(CC2C(N(C3=C(C(=N2)C2=CC=CC=C2)C=C(C(=C3)OC)OC)CC)=O)C=CC1 | C27H29N3O3
